US06762180B1
(10) 4-[N-(2-dimethylamino-ethyl)N-(pyridine-3-carbonyl)-amino]-nitrobenzene
Prepared from 4-(2-dimethylamino-ethylamino)-nitrobenzene and nicotinic acid chloride

reactant | 4-(2-dimethylamino-ethylamino)-nitrobenzene | CN(CCNC1=CC=C(C=C1)[N+](=O)[O-])C | C10H15N3O2
reactant | nicotinic acid chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
product | 4-[N-(2-dimethylamino-ethyl)N-(pyridine-3-carbonyl)-amino]-nitrobenzene | CN(CCN(C(=O)C=1C=NC=CC1)C1=CC=C(C=C1)[N+](=O)[O-])C | C16H18N4O3
